US06509354B1
Preparation of N′-(4-Methyl-3-n-propylthiophenyl)trifluoroacetohydrazidoyl Chloride (Compound XXI) 2.0 g (10 mmol) of 4-methyl-3-n-propylthiophenylhydrazine in 15 ml of pyridine was stirred at 0° C. 2.1 g (10 mmol) of trifluoroacetic anhydride was added dropwise, and the reaction mixture was stirred at room temperature overnight. The pyridine was distilled off from the reaction mixture under reduced pressure, and the residue was poured into 50 ml of water and extracted with 30 ml of ethyl acetate. The ethyl acetate layer was washed with 20 ml of water three times and dried over anhydrous magnesium sulfate. The ethyl acetate was distilled off under reduced pressure to obtain 2.3 g of N′-(4-methyl-3-n-propylthiophenyl)trifluoroacetohydrazide. 2.0 g (6.8 mmol) of the hydrazide was dissolved in 15 ml of acetonitrile and refluxed together with 2.0 g (7.6 mmol) of triphenylphosphine and 5 ml of carbon tetrachloride with heating for 2 hours. After cooling down to room temperature, the acetonitrile was distilled off under reduced pressure. 30 ml of toluene was added to the residue, and the insolubles were removed by decantation (twice). The toluene layers were combined, washed with 40 ml of water and dried over anhydrous magnesium sulfate, and the toluene was distilled off under reduced pressure. Purification of the residue by silica gel column chromatography afforded 1.0 g (3.2 mmol) of N′-(4-methyl-3-n-propylthiophenyl)trifluoroacetohydrazidoyl chloride, which was used in Example 10 as the starting material.

reactant | 4-methyl-3-n-propylthiophenylhydrazine | CC1=C(C=C(C=C1)NN)SCCC | C10H16N2S
reactant | trifluoroacetic anhydride | 10 mmol, 2.1 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | N′-(4-methyl-3-n-propylthiophenyl)trifluoroacetohydrazide | 2.3 g | CC1=C(C=C(C=C1)NNC(C(F)(F)F)=O)SCCC | C12H15F3N2OS
